US06897231B2
A. 3-(4-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
A mixture of 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (5.0 g, 16.3 mmol), 4-methoxyphenylboronic acid (3.7 g, 24.5 mmol), Pd(dppf)Cl2 (1.33 g, 1.63 mmol) and K3PO4 (17.31 g, 81.66 mmol) in 120 mL DME was refluxed for 24 h. The reaction was cooled and diluted with EtOAc. The mixture was filtered through a celite pad and the filtrate was washed with water, brine, dried (Na2SO4) and filtered. Removal of solvent in vacuo followed by chromatographic purification of the residue (10-50% EtOAc in hexanes) furnished 4 g (73% yield) of the title compound as a white solid. ES-MS (m/z) 334 [M+H]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 16.3 mmol, 5.0 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | 4-methoxyphenylboronic acid | 24.5 mmol, 3.7 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K3PO4 | 81.66 mmol, 17.31 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 120 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.63 mmol, 1.33 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 4 g, 73% yield | COC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C20H19N3O2
